US04367238
A solution of 2-[2-methoxy-3-(o-tolyloxy)phenyl]acetonitrile (5.2 g) in dimethylformamide (10 ml) was added dropwise to a mixture of 50% sodium hydride (1.1 g) and dimethylformamide (20 ml) below 7° C. in 10 minutes and stirred at the same temperature for 30 minutes. Methyl iodide (6.2 g) was added dropwise to the mixture below 7° C. in 15 minutes and stirred at the same temperature for an hour. Chilled water (200 ml) was added to the reaction mixture, and the mixture was extracted with diethyl ether. The extract was washed with water, aqueous sodium hydrogen sulfite and water successively, dried over magnesium sulfate and then evaporated to give oily 2-[2-methoxy-3-(o-tolyloxy)phenyl]-2,2-dimethylacetonitrile (5.7 g).

reactant | 2-[2-methoxy-3-(o-tolyloxy)phenyl]acetonitrile | 5.2 g | COC1=C(C=CC=C1OC1=C(C=CC=C1)C)CC#N | C16H15NO2
reactant | sodium hydride | 1.1 g | [H-].[Na+]
reactant | Methyl iodide | 6.2 g | CI | CH3I
reactant | water | 200 ml | O | H2O
reactant | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2-[2-methoxy-3-(o-tolyloxy)phenyl]-2,2-dimethylacetonitrile | 5.7 g | COC1=C(C=CC=C1OC1=C(C=CC=C1)C)C(C#N)(C)C | C18H19NO2
